data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_333174_0,[C@:1]([C:4]([N:6]([H:12])[H:13])=[O:9])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:8]/[C:2]([H:14])([H:15])[H:16])([O:7][H:10])[H:11]>>[C:1](=[C:5](/[C:3]([H:17])([H:18])[H:19])[N:8]([C:2]([H:14])([H:15])[H:16])[C:4]([N:6]([H:12])[H:13])=[O:9])(\[O:7][H:10])[H:11],59.80890749998494
MR_33559_1,[C:1]([N:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:7])[N:5]([H:9])[H:10])([O:6][H:8])([H:11])[H:12]>>[C:1]([O:6][H:8])([O:7]/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:3]\[N:5]([H:9])[H:10])([H:11])[H:12],61.08273250005041
MR_318031_1,[C:1](/[C:3](=[C:2](/[N:4]([H:9])[H:10])[O:7][H:8])[N:5]([H:11])[H:12])([N:6]([H:13])[H:14])([H:15])[H:16]>>[C:1](=[C:3](/[C@@:2]([N:4]([H:9])[H:10])([O:7][H:8])[H:16])[N:5]([H:11])[H:12])(\[N:6]([H:13])[H:14])[H:15],72.83706250001472
MR_229469_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:5]([H:21])([H:22])[H:23])[N:6]([C:2]([H:12])([H:13])[H:14])/[C:7](=[N:9]/[O:8][H:10])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:5]([H:21])([H:22])[H:23])[N:9](/[C:7](=[N:6]\[C:2]([H:12])([H:13])[H:14])[H:11])[O:8][H:10],68.02601999999823
MR_308834_2,[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([C@@:6]1([O:9][H:10])[N:5]([C:2]([H:15])([H:16])[H:17])[C@:8]1([N:7]([H:12])[H:13])[H:14])[H:11]>>[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([N:5]([C:2]([H:15])([H:16])[H:17])/[C:6](=[C:8](\[N:7]([H:12])[H:13])[H:14])[O:9][H:10])[H:11],69.39585249999965
MR_365467_1,[C:1]([C:3]([H:13])([H:14])[H:15])([N:5]([C:2]([C:4]([H:16])([H:17])[H:18])([N:8]=[C:6]([H:19])[H:20])[H:12])[H:10])([O:7][H:9])[H:11]>>[C:1](=[C:3]([H:13])[H:15])([N:5]([C:2]([C:4]([H:16])([H:17])[H:18])([N:8]([C:6]([H:14])([H:19])[H:20])[H:11])[H:12])[H:10])[O:7][H:9],67.0195100000069
MR_583649_0,[N:1]([C:2]([O:5][H:8])=[O:6])([O:4][C:3](=[O:7])[H:10])[H:9]>>[N:1]1([H:9])[C@@:2]([O:5][H:8])([O:6][C:3](=[O:7])[H:10])[O:4]1,67.44809250003058
MR_260038_0,[C:1](/[C:3](=[C:2](/[O:5][H:7])[N:6]=[C:4]([H:9])[H:10])[H:8])([H:11])([H:12])[H:13]>>[C:1]([C@:3]1([H:8])[C:2]([O:5][H:7])=[N:6][C:4]1([H:9])[H:10])([H:11])([H:12])[H:13],40.079680000002185
MR_584995_0,[C:1]1([C:3]([H:16])([H:17])[H:18])([O:7][H:11])[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[O:6][H:10])([O:8][H:12])[O:9]1>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[O:6][H:10])([C:5]([O:8][H:12])=[O:9])[O:7][H:11],18.0895700000562
MR_499696_1,[C:1](/[C:6](=[C:5](\[C:7]([C:2]([H:17])([H:18])[H:19])[C:8]([C:3]([H:20])([H:21])[H:25])[C:4]([H:22])([H:23])[H:24])[N:9]([H:12])[H:13])[O:10][H:11])([H:14])([H:15])[H:16]>>[C:1]([C@:6]1([O:10][H:11])[C:5]([N:9]([H:12])[H:13])=[C:7]([C:2]([H:17])([H:18])[H:19])[C:8]1([C:3]([H:20])([H:21])[H:25])[C:4]([H:22])([H:23])[H:24])([H:14])([H:15])[H:16],33.61956749997589
MR_349012_1,[C:1](/[C:3](=[C:2](\[O:4][O:5][H:8])[N:6][H:9])[N:7][H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([O:4]/[C:2]([O:5][H:8])=[N:6]\[H:9])=[N:7]\[H:10])([H:11])([H:12])[H:13],57.13512999999409
MR_700468_0,[C:1](\[N:4]([H:14])[H:15])(=[C:5](\[C:3]([C:2]([O:6][H:10])=[O:9])([O:7][H:11])[O:8][H:12])[H:16])[H:13]>>[C:1]([C:2]([O:6][H:10])=[O:9])([N:4]([H:14])[H:15])([C:5](=[C:3]([O:7][H:11])[O:8][H:12])[H:16])[H:13],70.86796749999252
MR_327386_1,[C:1]1([O:5][H:7])([H:9])[N:2]([H:8])[N:6]1[C:3](=[O:4])[H:10]>>[C:1]1([O:5][H:7])([H:9])[N:2]([H:8])[O:4][C:3]([H:10])=[N:6]1,39.48481000000598
MR_384395_0,[N:1]([N:2]([N:4]([H:10])[H:11])[H:7])([N:3]([H:8])[H:9])[O:5][H:6]>>[N:1]([N:2]([O:5][H:6])[H:7])([N:3]([H:8])[H:9])[N:4]([H:10])[H:11],65.94083749994809
MR_188025_0,[C:1]([C:2]([N:5]([H:14])[H:15])(/[C:6](=[N:7]/[H:16])[H:17])[H:9])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[H:8]>>[C:1](\[C:2]([N:5]([H:14])[H:15])([C:6]([N:7]([H:12])[H:16])([H:8])[H:17])[H:9])([N:3]([H:10])[H:11])=[N:4]/[H:13],55.3938174999675
MR_559874_0,[C:1]([N:3]([H:10])[H:11])([O:4][O:5][C:2]([H:12])([H:13])[H:14])([O:6][H:9])[O:7][H:8]>>[C:1]([N:3]([H:10])[H:11])([O:4][O:6][H:9])([O:5][C:2]([H:12])([H:13])[H:14])[O:7][H:8],59.77251250000549
MR_400654_1,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[C:3]([H:13])([H:17])[H:18])([N:5]([C:6](=[C:7]([H:19])[H:20])[O:8][H:9])[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:5]([H:10])[C@@:6]1([C:7]([N:4]([C:2]([H:14])([H:15])[H:16])[C:3]([H:13])([H:17])[H:18])([H:19])[H:20])[O:8][H:9],72.879732500014
MR_601080_0,[C@:1]([C:2]([O:6][H:9])=[O:7])([N:3]([H:11])[H:12])([O:4][O:5][H:8])[H:10]>>[C@@:1]1([N:3]([H:11])[H:12])([H:10])[C@@:2]([O:4][O:5][H:8])([O:6][H:9])[O:7]1,37.87401750000655
MR_684239_0,[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]1([H:12])[C:3]([N:7]([H:16])[H:17])([H:13])[O:8]1)[H:11])([N:6]([H:14])[H:15])[O:9][H:10]>>[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([C:2](=[O:8])[H:12])([N:7]([H:16])[H:17])[H:13])[H:11])([N:6]([H:14])[H:15])[O:9][H:10],27.35837250001808
